*.SCALE micron
* one-cell copy of sky130_fd_sc_hd.cdl (PDK); *.SCALE line added 2026-09-05 for ICV NetTran
.SUBCKT sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
*.PININFO A:I VGND:I VNB:I VPB:I VPWR:I Y:O
MMIN1 Y A VGND VNB nfet_01v8 m=1 w=0.65 l=0.15 mult=1 sa=0.265
+ sb=0.265 sd=0.28 topography=normal area=0.063 perim=1.14
MMIP1 Y A VPWR VPB pfet_01v8_hvt m=1 w=1.0 l=0.15 mult=1 sa=0.265
+ sb=0.265 sd=0.28 topography=normal area=0.063 perim=1.14
.ENDS sky130_fd_sc_hd__inv_1
